Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Codeine / Iodine / Glucocorticoids,Systemic Classifier / 
Dilaudid
 
Attending: ___.
 
Chief Complaint:
intractable low back pain and R hip pain
 
Major Surgical or Invasive Procedure:
___ PARTIAL SACRECTOMY
___ INSTRUMENTED SACRAL RECONSTRUCTION

 
History of Present Illness:
Mr. ___ is a ___ year old man with renal cell carcinoma 
metastatic to the R sacral ala s/p IL2 and Cyberknife therapy on 
the sacrum. Since ___ he developed numbness to the R toes, 
which progressed to numbness up to the calf and some 
dysesthesia. He was started on Neurontin without significant 
benefit. Finally on ___ he underwent pelvic MRI which showed 
progression of the sacral lesion. He had developed intractable 
low back pain that seemed to be positional as well as right 
lower extremity radiculopathy in an S1 distribution. 
 
Past Medical History:
1.  History of recurrent kidney stones dating as far back as
___.
2.  History of asymptomatic bradycardia which was thoroughly
evaluated by cardiology and no therapy was indicated.  Of note,
during anesthesia for his nephrectomy, he required atropine
treatment for bradycardia.
3.  GERD.
4.  Degenerative disc disease in the C-spine region.

 
Social History:
___
Family History:
nc
 
Physical Exam:
AOx3. Follows commands. Speech intact. Face symetric. No drift. 
PERRLA. EOMI. Sensation intact in all four extremities. Moving 
all extremities with full strength. 
 
Pertinent Results:
MRI lumbar spine ___. Large right sacroiliac lytic lesion expanding the right 
sacral ala, with 
narrowing abutting the right neural foramen at L5-S1. 
Questionable expansion 
into the right neural foramen, and if is present, probably 
minimal.  
2. Multilevel degenerative changes in the lumbar spine, worst at 
level L4-L5. 
3. Cystic lesions in the right kidney, incompletely 
characterized. 

 
Brief Hospital Course:
Pt was admitted and brought to OR for partial sacrectomy under 
general anesthesia.  He had EBL of 14liters and received 
replacement.  He remained intubated and was brought to TICU 
postop and kept at flat bedrest until return to OR for fusion.  
he was extubated the next morning.  Pain medication was 
titrated.  Initially post op he had weakness of his right 
plantar and dorsiflexors but was full strength by POD#2.  His 
hematocrit was followed and he received transfusions with goal 
of >25 by return to OR for fusion. He was transferred to the 
floor in stable condition on ___. On the evening of ___ he was 
kept NPO and started on IVF in preparation for the OR on ___. 
On ___ he returned to the OR for L4-S1 fusion with placement of 
ileal screws and sacral reconstruction. He tolerated this 
procedure well with no complication. Post operatively he was 
transferred to the ICU for continued monitoring. On post op exam 
he was doing well. His strength was full and his incisions were 
clean and dry. He was started on a morphine PCA for pain control 
with relief. On ___ he was transferred to the floor in stable 
condition. His PCA was discontinued and he was started on 
oxycontin 30mg q12 and the pain managment team was consulted for 
help in controlling his pain. Recommendations per the pain team 
were to titrate the long acting oxycontin based on his PRN pain 
medication needs.  He was transfused 2 units of PRBCs on ___ 
for a HCT of 24.  Post transfusion HCT was 27.8.  When his pain 
was adequately controlled he began working with Physical Therapy 
and workup was started on his right shoulder pain that included 
an x ray. R shoulder x ray showed no fracture and was consistent 
with arthritic changes. His shoulder pain did improve over his 
stay and will follow up with his PCP for further workup as 
needed. On ___ his oxycontin was increased to 40mg BID per pain 
team recomendations. He was able to get OOB and obtain his 
upright L spine x rays on ___ and these showed good placement 
of surgical hardware. 

He was discharged home on ___ with a ___ order.

 
Medications on Admission:
tylenol, prevacid, oxycodone, neurontin,zoloft
 
Discharge Medications:
1. oxycodone 10 mg Tablet Sustained Release 12 hr Sig: Four (4) 
Tablet Sustained Release 12 hr ___ twice a day.
Disp:*240 Tablet Sustained Release 12 hr(s)* Refills:*0*
2. acetaminophen 325 mg Tablet Sig: Two (2) Tablet ___ Q6H (every 
6 hours) as needed for pain or fever.  
3. gabapentin 300 mg Capsule Sig: Two (2) Capsule ___ BID (2 
times a day).  
4. docusate sodium 100 mg Capsule Sig: One (1) Capsule ___ BID (2 
times a day).  
5. sertraline 50 mg Tablet Sig: One (1) Tablet ___. 
 
6. senna 8.6 mg Tablet Sig: ___ Tablets ___ BID (2 times a day).  

7. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) ___.  
8. Valium 5 mg Tablet Sig: One (1) Tablet ___ every eight (8) 
hours as needed for Spasm.
Disp:*90 Tablet(s)* Refills:*0*
9. lansoprazole 30 mg Tablet,Rapid Dissolve, ___ Sig: One (1) 
Tablet,Rapid Dissolve, ___ ___.  
10. oxycodone 10 mg Tablet Sig: ___ Tablets ___ every four (4) 
hours as needed for pain.
Disp:*120 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Metastatic renal cell carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
•        Do not smoke
•        Keep wound clean / No tub baths or pools until seen in 
follow up/ remove dressing POD#2   / begin ___ showers POD#4
•        If you have steri-strips in place – keep dry x 72 
hours.  Do not pull them off. They will fall off on their own or 
be taken off in the office
•        No pulling up, lifting> 10 lbs., excessive bending or 
twisting for two weeks then increase as tolerated.
•        Limit your use of stairs to ___ times per day
•        Have a family member check your incision ___ for 
signs of infection
•        Take pain medication as instructed; you may find it 
best if taken in the a.m. when you wake for morning stiffness 
and before bed for sleeping discomfort
•        Do not take any anti-inflammatory medications such as 
Motrin, Advil, aspirin, Ibuprofen etc. for 3 months to promote 
fusion.
•        Increase your intake of fluids and fiber as pain 
medicine (narcotics) can cause constipation
 
Followup Instructions:
___